US07399867B2
Add 6-methoxytetralone (1.0 eq.), 4-bromophenyl-methyl-sulfone (1.02 eq.), Pd(OAc)2 (0.025 eq.), DPEphos ligand [(Oxydi-2,1-phenylene)bis(diphenylphosphine)](0.026 eq.) and toluene (12 vols) to a three-neck flask equipped with a reflux condenser and nitrogen vent purge. Then add sodium t-butoxide (2.5 eq.) in one portion. The reaction mixture exotherms to approximately 40° C. and forms a heterogeneous yellow mixture. Heat the heterogeneous yellow reaction mixture to 75-80° C. for 1-2 hours. Cool the yellow slurry to room temperature and slowly quench the reaction with water (12 vols), keeping the temperature below 40° C. Cool the aqueous slurry to room temperature and stir for 2 to 3 hours. Filter the slurry over polypropylene and wash the solids with water (3×2 vols). Dry the resulting filter cake in a vacuum overnight at 50° C. to provide crude 2-(4-methanesulfonyl-phenyl)-6-methoxy-3,4-dihydro-2H-naphthalen-1-one (91%).

reactant | 6-methoxytetralone | 1.0 eq. | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | 4-bromophenyl-methyl-sulfone | 1.02 eq. | BrC1=CC=C(C=C1)CS(=O)(=O)CC1=CC=C(C=C1)Br | C14H12Br2O2S
reactant | DPEphos | 0.026 eq. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3OC4=CC=CC=C4P(C5=CC=CC=C5)C6=CC=CC=C6 | C36H28OP2
reactant | sodium t-butoxide | 2.5 eq. | CC(C)([O-])C.[Na+]
catalyst | Pd(OAc)2 | 0.025 eq. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(4-methanesulfonyl-phenyl)-6-methoxy-3,4-dihydro-2H-naphthalen-1-one | 91% | CS(=O)(=O)C1=CC=C(C=C1)C1C(C2=CC=C(C=C2CC1)OC)=O | C18H18O4S
